US08097613B2
a) (7-Methoxymethoxymethyl-1,1-dioxo-1,4-dihydro-1λ6-thieno[2,3-e][1,2,4]thiadiazin-3-yl)-acetic Acid Ethyl Ester
To a solution of 2-amino-4-methoxymethoxymethyl-thiophene-3-sulfonic acid amide (0.76 g, 3.01 mmol) in N,N-dimethylformamide (10 mL) at 25° C. was added 3,3-diethoxy-acrylic acid ethyl ester (0.68 g, 3.61 mmol). The reaction was stirred at 70° C. for 5 h before triethylamine (1.68 mL, 12.04 mmol) was added to the mixture. The reaction was stirred at 70° C. overnight. It was then cooled to 25° C., diluted with ethyl acetate (10 mL) and washed with 1.0 M aqueous hydrochloric acid solution (10 mL). The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified via flash column chromatography (Teledyne Isco RediSep column; 0-80% ethyl acetate in hexanes) to afford the desired product, (7-methoxymethoxymethyl-1,1-dioxo-1,4-dihydro-1λ6-thieno[2,3-e][1,2,4]thiadiazin-3-yl)-acetic acid ethyl ester (0.55 g, 1.57 mmol, 52%), as a brown oil. 1H NMR (400 MHz, CDCl3) δ: 1.32 (3H, t, J=7.2 Hz), 3.42 (3H, s), 3.68 (2H, s), 4.26 (2H, q, J=7.2 Hz), 4.76 (2H, s), 4.80 (2H, s), 7.00 (1H, s), 8.00 (1H, s).

reactant | 2-amino-4-methoxymethoxymethyl-thiophene-3-sulfonic acid amide | 3.01 mmol, 0.76 g | NC=1SC=C(C1S(=O)(=O)N)COCOC | C7H12N2O4S2
reactant | 3,3-diethoxy-acrylic acid ethyl ester | 3.61 mmol, 0.68 g | C(C)OC(C=C(OCC)OCC)=O | C9H16O4
reactant | triethylamine | 12.04 mmol, 1.68 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | (7-methoxymethoxymethyl-1,1-dioxo-1,4-dihydro-1λ6-thieno[2,3-e][1,2,4]thiadiazin-3-yl)-acetic acid ethyl ester | 1.57 mmol, 0.55 g, 52% | C(C)OC(CC1=NS(C2=C(N1)SC=C2COCOC)(=O)=O)=O | C12H16N2O6S2
